US07119221B2
To a suspension of 1-[9-(1-carboxycyclopropyl)-5-oxononyl]-1-cyclopropanecarboxylic acid (6.95 g, 22.4 mmol) in iPrOH (40 mL) and H2O (40 mL) was added NaOH (1.80 g, 45.0 mmol). After 30 min of stirring, NaBH4 (0.45 g, 11.8 mmol) was added to the resulting clear solution. After 3 h and 15 min, the mixture was acidified to pH˜1 with aqueous HCl (1M) and extracted with Et2O (3×100 mL). The combined organic phases were dried (Na2SO4) and evaporated in vacuo to give 1-[9-(1-carboxycyclopropyl)-5-hydroxynonyl]-1-cyclopropanecarboxylic acid (6.02 g, 86%) as a slightly yellow oil. 1H NMR (CD3OD): δ=3.49 (br s, 1H), 1.57–1.25 (m, 16H), 1.14 (dd, J=3.6, 6.3, 4H), 0.70 (dd, J=3.3, 6.3, 4H). 13C NMR (CD3OD): δ=178.9 (2×), 72.2, 38.4 (2×), 35.1 (2×), 28.9 (2×), 27.0 (2×), 24.3 (2×), 16.3 (2×), 16.2 (2×).

reactant | 1-[9-(1-carboxycyclopropyl)-5-oxononyl]-1-cyclopropanecarboxylic acid | 22.4 mmol, 6.95 g | C(=O)(O)C1(CC1)CCCCC(CCCCC1(CC1)C(=O)O)=O | C17H26O5
reactant | NaOH | 45.0 mmol, 1.80 g | [OH-].[Na+]
reactant | NaBH4 | 11.8 mmol, 0.45 g | [BH4-].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | iPrOH | 40 mL | CC(C)O | C3H8O
solvent | H2O | 40 mL | O | H2O
product | 1-[9-(1-carboxycyclopropyl)-5-hydroxynonyl]-1-cyclopropanecarboxylic acid | 6.02 g, 86% | C(=O)(O)C1(CC1)CCCCC(CCCCC1(CC1)C(=O)O)O | C17H28O5
